US07351778B2
2) Preparation of butyl 4-methyl-3-oxo-valerate
To a solution of 42 g of NaOH in 50 ml of ethanol was added 0.1 mol of butyl 4-methyl-2-acetyl-3-oxo-valerate, and the reaction mixture was stirred for 10 hrs. Then to the reaction was added 50 ml of crushed ice, and the mixture was neutralized with hydrochloric acid. Diethyl ether was used to extract product, and the collected organic layer was dried over anhydrous sodium sulfate. The product was obtained by distillation under reduced vacuum.

reactant | NaOH | 42 g | [OH-].[Na+]
reactant | butyl 4-methyl-2-acetyl-3-oxo-valerate | 0.1 mol | CC(C(C(C(=O)OCCCC)C(C)=O)=O)C | C12H20O4
reactant | hydrochloric acid | Cl | ClH
reactant | Diethyl ether | C(C)OCC | C4H10O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | butyl 4-methyl-3-oxo-valerate | CC(C(CC(=O)OCCCC)=O)C | C10H18O3
